US06159971
5-Methoxy-8-nitro-1,2,3,4-tetrahydronaphthalene-2-carboxylic Acid
A mixture of methyl 5-methoxy-8-nitro-1,2,3,4-tetrahydronaphthalene-2-carboxylate (1.9 g, 7.1 mmol) in methanol (20 mL) and 2 M NaOH (10 mL) was refluxed for 1.5 h and the solvent was evaporated in vacuo. The residue was taken up in ethyl acetate and acidified. The organic phase was separated and dried and evaporated in vacuo to afford 1.7 g (95% yield) of crystals: mp (after recrystallization in diisopropyl ether/ethanol) 189-190° C.; EIMS (70 eV) m/z (relative intensity) 251 (30, M+).

reactant | methyl 5-methoxy-8-nitro-1,2,3,4-tetrahydronaphthalene-2-carboxylate | 7.1 mmol, 1.9 g | COC1=C2CCC(CC2=C(C=C1)[N+](=O)[O-])C(=O)OC | C13H15NO5
solvent | methanol | 20 mL | CO | CH4O
solvent | NaOH | 2 M, 10 mL | [OH-].[Na+]
product | 5-Methoxy-8-nitro-1,2,3,4-tetrahydronaphthalene-2-carboxylic Acid | 1.7 g, 95% yield | COC1=C2CCC(CC2=C(C=C1)[N+](=O)[O-])C(=O)O | C12H13NO5
